US05166198
9-[2-(Hydroxymethyl)-4-(diethoxyphosphoryl)butoxy]guanine
A solution of 6-chloro-9-[2-(acetoxymethyl)-4-(diethoxyphosphoryl)butoxy]-2-formamidopurine (0.128 g, 0.268 mmol) in 80% formic acid (5 ml) was stirred at 80° C. for 5 hours. The solvent was evaporated under reduced pressure and the residue coevaporated with toluene (2×10 ml). The residue was redissolved in a 0.02 M solution of hydrochloric acid in ethanol (4ml) and the resulting mixture stirred at 90° C. for 2 hours. The solvents were evaporated under reduced pressure and the residue coevaporated with ehtanol (2×15 ml). The product was purified by column chromatography on silica gel (eluting with chloroform:ethanol 92:8) to give the title compound (64 mg, 61%). 1H NMR: δH [(CD3)SO] 1.22 (6H, t, J=7Hz, (CH3CH2 ()2), 1.75 (5H, m, CHCH2CH2P), 3.5 (2H, m, CH2OH), 4.0 (4H, m, (OCH2CH3)2), 4.24 (2H, m, NOCH2), 4.64 (1H, t, J=5.2Hz, D2O exchangeable, CH2OH), 6.55 (2H, br.s, D2O exchangeable, NH2), 7.92 (1H, s, H-8), 10.52 (1H, br.s, D2O exchangeable, NH).

reactant | 6-chloro-9-[2-(acetoxymethyl)-4-(diethoxyphosphoryl)butoxy]-2-formamidopurine | 0.268 mmol, 0.128 g | ClC1=C2N=CN(C2=NC(=N1)NC=O)OCC(CCP(=O)(OCC)OCC)COC(C)=O | C17H25ClN5O7P
reactant | formic acid | 5 ml | C(=O)O | CH2O2
product | 9-[2-(Hydroxymethyl)-4-(diethoxyphosphoryl)butoxy]guanine | 64 mg, 61% | OCC(CON1C=2N=C(NC(C2N=C1)=O)N)CCP(=O)(OCC)OCC | C14H24N5O6P
